US04548948
Preparation of 5-fluoro-2,3-dihydrobenzofuran-3-carboxylic acid (D13)
The title compound was prepared from 6-fluoro-4-chromanone (D12) (9.96 g, 0.06 mole) and thallium trinitrate (0.083 mole) on K10 clay (84 g) by the method of Description 1, as a yellow solid, (1.66 g, 15%).

reactant | 6-fluoro-4-chromanone | 0.06 mole, 9.96 g | FC=1C=C2C(CCOC2=CC1)=O | C9H7FO2
reactant | thallium trinitrate | 0.083 mole | [N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[Tl+3]
product | 5-fluoro-2,3-dihydrobenzofuran-3-carboxylic acid | FC=1C=CC2=C(C(CO2)C(=O)O)C1 | C9H7FO3
